US06500985B2
Process for producing (3S)-3-tert-butoxycarbonylamino-1-chloro-4-phenyl-2-butanone
Di-tert-butyl dicarbonate (1.20 g) and diisopropylethylamine (2.65 ml) were dissolved in toluene (11.5 ml), and an aqueous solution (11.27 g) of (3S)-3-amino-1-chloro-4-phenyl-2-butanone hydrochloride (1.00 g) was added thereto dropwise over 35 minutes. The mixture was reacted overnight at room temperature by being stirred, and the aqueous layer was then separated. The resulting toluene layer was washed with an aqueous solution of 1 mol/liter of citric acid and with water. The resulting toluene layer was analyzed by HPLC, and it was identified that (3S)-3-tert-butoxycarbonylamino-1-chloro-4-phenyl-2-butanone (0.95 g) was obtained in a yield of 75%.

reactant | Di-tert-butyl dicarbonate | 1.20 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | diisopropylethylamine | 2.65 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | (3S)-3-amino-1-chloro-4-phenyl-2-butanone hydrochloride | 11.27 g | Cl.N[C@H](C(CCl)=O)CC1=CC=CC=C1
solvent | toluene | 11.5 ml | C1(=CC=CC=C1)C | C7H8
product | (3S)-3-tert-butoxycarbonylamino-1-chloro-4-phenyl-2-butanone | yield of 75% | C(C)(C)(C)OC(=O)N[C@H](C(CCl)=O)CC1=CC=CC=C1 | C15H20ClNO3
